US08685981B2
(5a) benzyl 4-{2-[(Dimethylamino)sulfony]ethoxy}piperidine-1-carboxylate
Benzyl 4-hydroxypiperidine-1-carboxylate (5.0 g, 21.2 mmol) was dissolved in tetrahydrofuran (100 ml), and while cooling with ice, sodium hydride (content 55%) (1.0 g, 22.9 mmol) was added. The resulting mixture was stirred for 30 minutes while cooling with ice, to which 20 mL of a solution of N,N-dimethylethenesulfonamide in tetrahydrofuran (3.0 g, 22.2 mmol) was added dropwise over five minutes. The resulting mixture was stirred for 30 minutes while cooling with ice, and then for three hours at room temperature. The resulting reaction liquid was poured into water and then extracted with ethyl acetate. The resulting organic layer was sequentially washed with water and saturated brine, and then dried over sodium sulfate. The solvent was distilled off under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate, 50:50-0:100, V/V) to give the desired title compound (4.9 g, yield 62%).

reactant | Benzyl 4-hydroxypiperidine-1-carboxylate | 21.2 mmol, 5.0 g | OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H17NO3
reactant | sodium hydride | 22.9 mmol, 1.0 g | [H-].[Na+]
reactant | N,N-dimethylethenesulfonamide | CN(S(=O)(=O)C=C)C | C4H9NO2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 22.2 mmol, 3.0 g | O1CCCC1 | C4H8O
product | benzyl 4-{2-[(Dimethylamino)sulfony]ethoxy}piperidine-1-carboxylate | 4.9 g, yield 62% | CN(S(=O)(=O)CCOC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C17H26N2O5S
